US07361671B2
A solution of (4-chloromethyl-thiophen-2-yl)-acetic acid methyl ester (0.58 g, 2.83 mmol) and potassium cyanide (0.39 g, 5.95 mmol) in DMF (15 mL) is stirred at room temperature for 14 h then heated to 50° C. for 0.5 h. The mixture is quenched with saturated aq NaCl and extracted with CHCl3 (3×). The combined organic layers are washed with saturated aq NaCl, dried over Na2SO4, filtered and concentrated in vacuo. The residue is purified by chromatography (silica gel, 10% ethyl acetate in heptane) to give (4-cyanomethyl-thiophen-2-yl)-acetic acid methyl ester (0.43 g, 78%) as a colorless oil: 1H NMR (CDCl3, 300 MHz) δ 7.10 (s, 1 H), 6.95 (s, 1 H), 3.80 (s, 2 H), 3.72 (s, 3 H), 3.65 (s, 2 H).

reactant | (4-chloromethyl-thiophen-2-yl)-acetic acid methyl ester | 2.83 mmol, 0.58 g | COC(CC=1SC=C(C1)CCl)=O | C8H9ClO2S
reactant | potassium cyanide | 5.95 mmol, 0.39 g | [C-]#N.[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (4-cyanomethyl-thiophen-2-yl)-acetic acid methyl ester | 0.43 g, 78% | COC(CC=1SC=C(C1)CC#N)=O | C9H9NO2S
